US07241791B2
Step 1: 1-allyl-3-(4-methoxyphenyl)-7-methyl-1H-indazole
Prepared according to Method D step B from 7-methyl-3-(4-methoxyphenyl)-1H-indazole (0.112 g, 0.5 mmol), sodium hydride (60% in oil, 0.024 g, 0.6 mmol) and allylbromide (0.086 mL, 1.0 mmol) to give the title compound (0.027 g) as a white solid. Used as is without further characterization.

reactant | 7-methyl-3-(4-methoxyphenyl)-1H-indazole | 0.5 mmol, 0.112 g | CC=1C=CC=C2C(=NNC12)C1=CC=C(C=C1)OC | C15H14N2O
reactant | sodium hydride | 0.6 mmol, 0.024 g | [H-].[Na+]
reactant | allylbromide | 1.0 mmol, 0.086 mL | C(C=C)Br | C3H5Br
product | 1-allyl-3-(4-methoxyphenyl)-7-methyl-1H-indazole | 0.027 g | C(C=C)N1N=C(C2=CC=CC(=C12)C)C1=CC=C(C=C1)OC | C18H18N2O
